US05605914
A mixture of 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic acid (0.60 g, 1.69 mmol), carbonyldiimidazole (0.28 g, 1.77 mmol) and trace amount of 4-dimethylaminopyridine in 10 mL of tetrahydrofuran was stirred at room temperature under nitrogen for 30 min. To the reaction mixture was added 3-aminomethylpyridine (0.18 mL, 1.77 mmol). The reaction mixture was stirred for 20 min, then 10 mL of water was added and the tetrahydrofuran was removed under reduced pressure. The resulting slurry was filtered, the solid was washed with water, and dried in vacuo (60° C. <1 mm) to afford 0.57 g (76%) of N-3-methylpyridyl 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionamide as a white powder: mp 171.2°-172.4° C.; 1H NMR (DMSO-d6, 250 MHz) δ 8.69 (t, 1 H, J=6 Hz), 8.36 (m, 2H), 7.85 (s, 4 H, Ar), 6.8-7.4 (m, 5 H), 5.71 (t, 1 H, J=8 Hz), 4.22 (d, 2 H, J=5.2 Hz), 3.73 (s, 3 H), 3.71 (s, 3 H), 3.31 (d, 2 H, J=8 Hz); 13C NMR (dmso-d6) δ 169.4, 167.7, 148.5, 148.3, 147.9, 134.7, 134.6, 134.5, 131.4, 131.2, 123.1, 119.5, 111.6, 111.2, 55.5, 55.4, 50.6, 39.6, 37.4. Anal. Calcd for C25H23N3O5. Theoretical C, 67.41; H, 5.20; N, 9.43. Found C, 67.35; H, 5.14; N, 9.34.

reactant | 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic acid | 1.69 mmol, 0.60 g | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H17NO6
reactant | carbonyldiimidazole | 1.77 mmol, 0.28 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminomethylpyridine | 1.77 mmol, 0.18 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | water | 10 mL | O | H2O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-3-methylpyridyl 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionamide | 0.57 g, 76% | CC=1C(=NC=CC1)NC(CC(C1=CC(=C(C=C1)OC)OC)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C25H23N3O5
